US05112840
a) Precursor: Preparation of N-(2,6-dichloroisonicotinoyl)-imidazole
6.8 g (0.10 mole) of imidazole and 15.3 ml (0.11 mole) of triethylamine are stirred in 100 ml of tetrahydrofuran. While cooling at 25°-30° C., a solution of 23.1 g (0.11 mole) of 2,6-dichloroisonicotinic acid chloride in 20 ml of tetrahydrofuran is then added dropwise, triethylamine hydrochloride separating. This is filtered off with suction and the filtrate is concentrated to 26.4 g of crude product. Recrystallisation from ethyl acetate yields 20.1 g (83% of the theoretical amount) of pure substance; m.p. 148°-151° C.

reactant | imidazole | 0.10 mole, 6.8 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 0.11 mole, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichloroisonicotinic acid chloride | 0.11 mole, 23.1 g | ClC=1C=C(C(=O)Cl)C=C(N1)Cl | C6H2Cl3NO
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(2,6-dichloroisonicotinoyl)-imidazole | ClC=1C=C(C(=O)N2C=NC=C2)C=C(N1)Cl | C9H5Cl2N3O
